US08497294B2
1B. 2-Amino-1-(4-chloro-phenyl)-1-[4-iodo-phenyl]-ethanol (Epoxide ring opening reaction)
2-(4-Chloro-phenyl)-2-(4-iodo-phenyl)-oxirane (500 mg, 1.40 mmol) was dissolved in 2M NH3 in methanol (5 ml, 10.0 mmol) and the solution was heated in a microwave at 130° C. for 60 minutes. Upon cooling, the solvent was removed in vacuo to furnish the desired product. Three identical reactions were carried out and afforded 1.55 g (98%) of the product 2-amino-1-(4-chloro-phenyl)-1-[4-iodo-phenyl]-ethanol. The crude product was pure and was used in the next step without purification.

reactant | 2-(4-Chloro-phenyl)-2-(4-iodo-phenyl)-oxirane | 1.40 mmol, 500 mg | ClC1=CC=C(C=C1)C1(OC1)C1=CC=C(C=C1)I | C14H10ClIO
reactant | methanol | 10.0 mmol, 5 ml | CO | CH4O
reactant | NH3 | 2M | N | H3N
product | 2-Amino-1-(4-chloro-phenyl)-1-[4-iodo-phenyl]-ethanol | NCC(O)(C1=CC=C(C=C1)I)C1=CC=C(C=C1)Cl | C14H13ClINO
